US07763639B2
4-[2-FLUORO-3-(TRIFLUOROMETHOXY)PHENYL]PIPERIDINE
Preparation according to preparation 18: 4-[2-fluoro-3-(trifluoromethoxy)phenyl]-1,2,3,6-tetrahydropyridine (3.33 g, 12.7 mmol), palladium on carbon (0.35 g), hydrochloric acid (0.5 ml), methanol (30 ml). Yield: 2.68 g. MS m/z (relative intensity, 70 eV) 263 (M+, 39), 262 (27), 206 (8), 178 (7) 56 (bp).

reactant | 4-[2-fluoro-3-(trifluoromethoxy)phenyl]-1,2,3,6-tetrahydropyridine | 12.7 mmol, 3.33 g | FC1=C(C=CC=C1OC(F)(F)F)C=1CCNCC1 | C12H11F4NO
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
catalyst | palladium on carbon | 0.35 g | [Pd] | Pd
solvent | methanol | 30 ml | CO | CH4O
product | 4-[2-FLUORO-3-(TRIFLUOROMETHOXY)PHENYL]PIPERIDINE | FC1=C(C=CC=C1OC(F)(F)F)C1CCNCC1 | C12H13F4NO
